US09169198B2
The above-described method (Example 2) was repeated to react 2-methoxyethyl 2-amino-5-bromo-3-methylbenzoate (5.00 g, 15.88 mmol) with copper cyanide (1.49 g, 16.67 mmol) in N-methylpyrrolidone at 170° C. for 6 hours. Following working up similar to Example 2 and additional extraction with ethyl acetate and washing with aqueous 5% ethylenediamine solution, 2-methoxyethyl 2-amino-5-cyano-3-methylbenzoate (0.45 g, 11.6% of theory, 95.6 area % LC) was obtained as a brown solid.

reactant | 2-methoxyethyl 2-amino-5-bromo-3-methylbenzoate | 15.88 mmol, 5.00 g | NC1=C(C(=O)OCCOC)C=C(C=C1C)Br | C11H14BrNO3
reactant | copper cyanide | 16.67 mmol, 1.49 g | [Cu](C#N)C#N
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 2-methoxyethyl 2-amino-5-cyano-3-methylbenzoate | 0.45 g, 11.6% | NC1=C(C(=O)OCCOC)C=C(C=C1C)C#N | C12H14N2O3
